US08735384B2
To a 0° C. solution of concentrated sulfuric acid (125 mL, 2340 mmol) and nitric acid (11.79 mL, 185 mmol) was added 3-bromo-4-fluorobenzaldehyde (25.0 g, 123 mmol). The reaction was warmed to ambient temperature, during which time the solids dissolved. After 2 h, the reaction mixture was poured into a mixture of ice (500 mL) and water (250 mL). The resulting suspension was filtered through a medium frit affording 5-bromo-4-fluoro-2-nitrobenzaldehyde as a yellow solid.

reactant | sulfuric acid | 2340 mmol, 125 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 185 mmol, 11.79 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-bromo-4-fluorobenzaldehyde | 123 mmol, 25.0 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
solvent | water | 250 mL | O | H2O
product | 5-bromo-4-fluoro-2-nitrobenzaldehyde | BrC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])F | C7H3BrFNO3
